US05965756
15a) Preparation of N-(cyclohexyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl)silanamine
Chlorodimethyl(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl) silane (3.8523 g, 0.01182 moles) was stirred in hexane (100 mL) as NEt3 (1.5136 g, 0.01496 moles) and cyclohexylamine (1.2107 g, 0.01221 moles) were added. This mixture was allowed to stir for 24 hours. After the reaction period the mixture was filtered and the volatiles removed resulting in the isolation of the desired product as a yellow oil (4.3313 g, 94.5 percent).

reactant | Chlorodimethyl(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl) silane | 0.01182 moles, 3.8523 g | Cl[Si](C1C=C(C2=CC=3CCCC3C=C12)C1=CC=CC=C1)(C)C | C20H21ClSi
reactant | NEt3 | 0.01496 moles, 1.5136 g | CCN(CC)CC | C6H15N
reactant | cyclohexylamine | 0.01221 moles, 1.2107 g | C1(CCCCC1)N | C6H13N
solvent | hexane | 100 mL | CCCCCC | C6H14
product | N-(cyclohexyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-3-phenyl-s-indacen-1-yl)silanamine | 4.3313 g, 94.5 percent | C1(CCCCC1)N[Si](C1C=C(C2=CC=3CCCC3C=C12)C1=CC=CC=C1)(C)C | C26H33NSi
